US07098226B2
1-[2-(1-Adamantyl)ethyl]-3-[3-(4-pyridyl)propyl]hexahydropyrimidin-2-one (Compound No. 9-1)
To anhydrous methylene chloride (50 ml) were added a solution of the obtained N-[2-(1-adamantyl)ethyl]-N′-[3-(4-pyridyl)propyl]-1,3-propanediamine (80 mg, 0.23 mmol) in anhydrous methylene chloride (10 ml) and a solution of 1,1′-carbonyldiimidazole (40 mg, 0.26 mmol) in anhydrous methylene chloride (10 ml) dropwise simultaneously with stirring at room temperature over 20 minutes. The mixture was stirred overnight, the reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography to give 8.0 mg (9.4%) of the titled compound.

reactant | N-[2-(1-adamantyl)ethyl]-N′-[3-(4-pyridyl)propyl]-1,3-propanediamine | 0.23 mmol, 80 mg | C12(CC3CC(CC(C1)C3)C2)CCNCCCNCCCC2=CC=NC=C2 | C23H37N3
reactant | 1,1′-carbonyldiimidazole | 0.26 mmol, 40 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(1-Adamantyl)ethyl]-3-[3-(4-pyridyl)propyl]hexahydropyrimidin-2-one | 8.0 mg, 9.4% | C12(CC3CC(CC(C1)C3)C2)CCN2C(N(CCC2)CCCC2=CC=NC=C2)=O | C24H35N3O
